US06458781B1
Preparation of (S)-(1-{4-[Bis-(4-fluoro-phenyl)-methyl]-piperazin-1-ylmethyl}-3-methyl-butyl)-carbamic acid tert-butyl ester
(S)-(1-Formyl-3-methyl-butyl)-carbamic acid tert-butyl ester (0.39 mg, 1.8 mmol) and 1-bis(4-fluorophenyl)methyl piperazine (0.50 g, 1.7 mmol) were dissolved in 1% HOAc in methanol (8 mL) under nitrogen atmosphere at ambient temperature. After stirring at that temperature for 1 hour, a solution of sodium cyanoborohydride (250 mg, 3.6 mmol) in methanol was added. The resulting reaction mixture was stirred at ambient temperature for 24 hours at which time TLC showed no starting aldehyde. 3N aqueous HCl was added in 5 mL portions until bubbling subsided; pH was adjusted to 8 with saturated aqueous NaHCO3 solution. The resulting mixture was extracted with EtOAc (3×25 mL), the combined organic solution was washed with brine (50 mL) and dried over MgSO4. The solution was concentrated in vacuo affording an amber oil. The crude product was further purified by flash chromatography (20%-30% EtOAc in hexanes) affording 342 mg (41%) of the pure titled compound as a clear oil. APCI-MS m/z 488.3 (MH+).

reactant | (S)-(1-Formyl-3-methyl-butyl)-carbamic acid tert-butyl ester | 1.8 mmol, 0.39 mg | C(C)(C)(C)OC(N[C@@H](CC(C)C)C=O)=O | C11H21NO3
reactant | 1-bis(4-fluorophenyl)methyl piperazine | 1.7 mmol, 0.50 g | FC1=CC=C(C=C1)C(N1CCNCC1)C1=CC=C(C=C1)F | C17H18F2N2
reactant | sodium cyanoborohydride | 3.6 mmol, 250 mg | C(#N)[BH3-].[Na+]
reactant | HCl | 3N | Cl | ClH
solvent | HOAc | CC(=O)O | C2H4O2
solvent | methanol | 8 mL | CO | CH4O
product | (S)-(1-{4-[Bis-(4-fluoro-phenyl)-methyl]-piperazin-1-ylmethyl}-3-methyl-butyl)-carbamic acid tert-butyl ester | 342 mg, 41% | C(C)(C)(C)OC(N[C@@H](CC(C)C)CN1CCN(CC1)C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C28H39F2N3O2
